US07183276B2
A mixture of 2-chloro-4-isopropyl-5-thiazolecarbaldehyde (2.0 g), ethyl diethylphosphonoacetate (2.47 g), sodium hydride (0.44 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 1 hr. Benzimidazole (1.54 g) and sodium hydride (0.44 g) were added to the reaction mixture and the mixture was further stirred at room temperature for 1 hr. The reaction mixture was poured into water, the precipitated crystals were collected by filtration and washed with water. Recrystallization from acetone-hexane gave ethyl (2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoate (3.01 g, 84%) as a pale-yellow prism crystal. melting point: 229–230° C.

reactant | 2-chloro-4-isopropyl-5-thiazolecarbaldehyde | 2.0 g | ClC=1SC(=C(N1)C(C)C)C=O | C7H8ClNOS
reactant | ethyl diethylphosphonoacetate | 2.47 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | Benzimidazole | 1.54 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 0.44 g | [H-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | ethyl (2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoate | 3.01 g, 84% | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)C(C)C)/C=C/C(=O)OCC | C18H19N3O2S
